US05030654
3-{1-[(cis-4-Benzyloxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}-2-(4-pentanoyloxybutyl)propanoic acid t-butyl ester
Valeryl chloride (0.2 ml, 1.98 mmole) was added dropwise to a stirred, ice cold solution of 3-{1-[(cis-4-benzyloxycarbonylcyclohexyl)carbamoyl]cyclopentyl}-2-(4-hydroxybutyl)propanoic acid t-butyl ester (0.7 g, 1.32 mmole) in dry pyridine (5 ml). The mixture was allowed to stand overnight at room temperature and ice was added, the pH was adjusted to 3 by the addition of 2N hydrochloric acid and the mixture was extracted with diethyl ether. The organic extract was dried (Na2SO4) and evaporated to give a gum which was chromatographed on silica eluting with hexane containing increasing proportions of diethyl ether to give the title product as a gum (. . . g . . . %). Found: C,70.06; H,8.91; N,2.58. C36H55NO7 requires C,70.44; H,9.03; N,2.28%.

reactant | Valeryl chloride | 1.98 mmole, 0.2 ml | C(CCCC)(=O)Cl | C5H9ClO
reactant | 3-{1-[(cis-4-benzyloxycarbonylcyclohexyl)carbamoyl]cyclopentyl}-2-(4-hydroxybutyl)propanoic acid t-butyl ester | 1.32 mmole, 0.7 g | C(C)(C)(C)OC(C(CC1(CCCC1)C(N[C@@H]1CC[C@@H](CC1)C(=O)OCC1=CC=CC=C1)=O)CCCCO)=O | C31H47NO6
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-{1-[(cis-4-Benzyloxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}-2-(4-pentanoyloxybutyl)propanoic acid t-butyl ester | C(C)(C)(C)OC(C(CC1(CCCC1)C(N[C@@H]1CC[C@@H](CC1)C(=O)OCC1=CC=CC=C1)=O)CCCCOC(CCCC)=O)=O | C36H55NO7
